US04757070
5-Hydroxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropyl ester
5-Hydroxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester (7.27 g) is refluxed in isopropanol (1000 ml) with titanium tetraisopropylate (7.1 ml) for 5 hours. The solution is evaporated, the residue is dissolved in ethyl acetate. The complete solution is reached by addition of 1N hydrochloric acid. Then it is made alkaline by addition of 1N sodium hydroxide solution. A precipitate resulting thereby is suctioned off. The filtrate is evaporated and yields a residue of 6.0 g of the title compound.

reactant | 5-Hydroxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 7.27 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)CO | C17H18N2O4
reactant | isopropanol | 1000 ml | C(C)(C)O | C3H8O
catalyst | titanium tetraisopropylate | 7.1 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
product | 5-Hydroxymethyl-4-methoxymethyl-beta-carboline-3-carboxylic acid isopropyl ester | 6.0 g | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)CO | C18H20N2O4
